US09340555B2
To a stirred solution of 5-tert-butyl 1-methyl (2S)-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]pentanedioate (260 mg, 0.40 mmol) in a mixture of THF/MeOH (10 ml/10 ml) was added 1M NaOH solution (2 ml, 2 mmol). The mixture was stirred at room temperature for 1 hour and poured into 100 ml of water. 1M HCl was added with stirring until pH=4. The precipitates were filtered, washed with water and dried in vacuo to give (2S)-5-tert-butoxy-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoic acid as off-white solid. Yield: 230 mg, 91%.

reactant | 5-tert-butyl 1-methyl (2S)-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]pentanedioate | 0.40 mmol, 260 mg | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)N[C@H](C(=O)OC)CCC(=O)OC(C)(C)C)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C32H32F2N4O7S
reactant | NaOH | 2 mmol, 1M, 2 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | THF MeOH | 10 ml | C1CCOC1.CO
product | (2S)-5-tert-butoxy-2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]-5-oxopentanoic acid | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F)=O | C31H30F2N4O7S
